US04222948
A. 4-[[(4-Nitrophenyl)sulfonyl]amino]-3-methylphenol
To a stirred mixture of 4-amino-3-methylphenol (24 g, 0.2 mole) in 600 ml of pyridine was added all at once p-nitrobenzenesulfonyl chloride (Eastman) (45 g, 0.2 mole) followed by heating on a steam bath for 2 hours. The dark oily solution was poured into 4 liters of water and then treated with glacial acetic acid until acid. The tar crystallized on standing to give after filtration 67 g (100%) of brown solid. The entire sample was recrystallized from CH3NO2 to give 52 g of pure intermediate.

reactant | 4-amino-3-methylphenol | 0.2 mole, 24 g | NC1=C(C=C(C=C1)O)C | C7H9NO
reactant | p-nitrobenzenesulfonyl chloride | 0.2 mole, 45 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | water | 4 liters | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | pyridine | 600 ml | N1=CC=CC=C1 | C5H5N
product | 4-[[(4-Nitrophenyl)sulfonyl]amino]-3-methylphenol | 52 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)O)C | C13H12N2O5S
